US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-amino-propyl)-imidazolidin-(2E)-ylidene]-amide
To a solution of (3-{(S)-2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-imidazolidin-4-yl}-propyl)-carbamic acid benzyl ester (Ex. 30) (0.44 g, 0.98 mmol) in DCM (20 ml) is added iodotrimethylsilane (0.27 ml, 1.96 mmol) in a dropwise manner. The orange suspension is stirred at room temperature for 65 minutes. Purification by catch and release resin (SCX-2) eluting with MeOH followed by 7M NH3 in MeOH yields the title compound as a yellow foam; [M+H]+ 313.1

reactant | (3-{(S)-2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-imidazolidin-4-yl}-propyl)-carbamic acid benzyl ester | 0.98 mmol, 0.44 g | C(C1=CC=CC=C1)OC(NCCC[C@@H]1N/C(/NC1)=N/C(=O)C1=NC(=C(N=C1N)N)Cl)=O | C19H23ClN8O3
reactant | iodotrimethylsilane | 1.96 mmol, 0.27 ml | I[Si](C)(C)C | C3H9ISi
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-amino-propyl)-imidazolidin-(2E)-ylidene]-amide | NCCC[C@@H]1N\C(\NC1)=N\C(=O)C1=NC(=C(N=C1N)N)Cl | C11H17ClN8O
